US07745641B2
In a similar manner to Step 2 of Example 16, 2,5-dichloro-N-(1-methyl-1-phenylethyl)nicotinamide (400 mg, 1.29 mmol) was dissolved in THF (16 mL), and the solution was treated with n-butyllithium-hexane solution (2.71 mol/L, 1.20 mL, 3.23 mmol) and DMF (0.250 mL, 3.23 mmol), followed by purification by slurry (diisopropylether) and flash column chromatography (hexane/ethyl acetate=60/40 to 50/50) to obtain 4,7-dichloro-1-hydroxy-2-(1-methyl-1-phenylethyl)-1,2-dihydropyrrolo[3,4-c]pyridine-3-one (312 mg, yield 72%).

reactant | 2,5-dichloro-N-(1-methyl-1-phenylethyl)nicotinamide | 1.29 mmol, 400 mg | ClC1=C(C(=O)NC(C)(C2=CC=CC=C2)C)C=C(C=N1)Cl | C15H14Cl2N2O
reactant | DMF | 3.23 mmol, 0.250 mL | CN(C)C=O | C3H7NO
solvent | THF | 16 mL | C1CCOC1 | C4H8O
product | 4,7-dichloro-1-hydroxy-2-(1-methyl-1-phenylethyl)-1,2-dihydropyrrolo[3,4-c]pyridine-3-one | 312 mg, yield 72% | ClC1=NC=C(C2=C1C(N(C2O)C(C)(C2=CC=CC=C2)C)=O)Cl | C16H14Cl2N2O2
